US06545030B1
[2,3-Difluoro-6-(1H-tetrazol-5-yl)-phenyl]-(4-iodo-2-methyl-phenyl)-amine
[2,3-Difluoro-6-cyano-phenyl]-(4-iodo-2-methyl-phenyl)-amine (1.11 g, 3 mmol) and Sodium azide(0.255 g, 3.9 mmol) and triethylamine hydrochloride (0. 537 g, 3.9 mmol) were all suspended in 10 ml toluene and stirred at 100° C. for 12 hours. The mixture was concentrated and the residue purified by column chromatography with ethyl acetate/methanol (10/1) to give the product as a foam-like solid. The yield: ˜50% m.p: 83.4-88.7° C. 1H NMR(CDCl3, 400 Hz): δ/ppm 7.69(1H, m, Phenyl-H); 7.42(1H, s, Phenyl-H); 7.27(1H, m, Phenyl-H); 6.91(1H, dd, J=16.2 Hz, 8.3 Hz, Phenyl-H); 6.40(1H, dd, Phenyl-H); 2.28(3H, s, CH3)

reactant | [2,3-Difluoro-6-cyano-phenyl]-(4-iodo-2-methyl-phenyl)-amine | 3 mmol, 1.11 g | FC1=C(C(=CC=C1F)C#N)NC1=C(C=C(C=C1)I)C | C14H9F2IN2
reactant | Sodium azide | 3.9 mmol, 0.255 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 3.9 mmol, 537 g | Cl.C(C)N(CC)CC
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | [2,3-Difluoro-6-(1H-tetrazol-5-yl)-phenyl]-(4-iodo-2-methyl-phenyl)-amine | yield: ˜50% | FC1=C(C(=CC=C1F)C1=NN=NN1)NC1=C(C=C(C=C1)I)C | C14H10F2IN5
